US05387710
To a solution of 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-one (220 g) in methanol (1300 ml) was added portionwise sodium borohydride (22.0 g) at 6° C.-30° C., and then the reaction mixture was stirred for 40 minutes and evaporated in vacuo. The residue was partitioned between ethyl acetate (1 l) and water (1 l). The organic layer was washed with 1N hydrochloric acid (500 ml), aqueous sodium hydrogen carbonate (500 ml), and brine (200 ml), and dried over magnesium sulfate. The solvent was evaporated in vacuo to give 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ol as a white powder.

reactant | 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-one | 220 g | COC1=CC2=C(CCCC(C2)=O)C=C1 | C12H14O2
reactant | sodium borohydride | 22.0 g | [BH4-].[Na+]
solvent | methanol | 1300 ml | CO | CH4O
product | 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ol | COC1=CC2=C(CCCC(C2)O)C=C1 | C12H16O2
